US04766128
A solution is prepared from 410 mg of 3-(13-nitro-6-methyl-8α-ergolinyl)-1,1-diethylurea in 10 ml of methylene chloride, 40 mg of tetrabutylammonium hydrogen sulfate and 0.8 ml of acetyl chloride are added, and this mixture is poured on 1 g of pulverized potassium hydroxide. After 1.5 hours of agitation at room temperature, the mixture is diluted with sodium bicarbonate solution, the organic phase is separated and dried with sodium sulfate. After evaporation and chromatography as indicated in Example 9, 375 mg of 3-(1-acetyl-6-methyl-13-nitro-8α-ergolinyl)-1,1-diethylurea is obtained.

reactant | 3-(13-nitro-6-methyl-8α-ergolinyl)-1,1-diethylurea | 410 mg | [N+](=O)([O-])C=1C=C2NC=C3C[C@H]4N(C[C@H](C[C@@H]4C(C1)=C32)NC(N(CC)CC)=O)C | C20H27N5O3
reactant | acetyl chloride | 0.8 ml | C(C)(=O)Cl | C2H3ClO
reactant | potassium hydroxide | 1 g | [OH-].[K+]
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
catalyst | tetrabutylammonium hydrogen sulfate | 40 mg | S(=O)(=O)(O)[O-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | sodium bicarbonate | C([O-])(O)=O.[Na+]
product | 3-(1-acetyl-6-methyl-13-nitro-8α-ergolinyl)-1,1-diethylurea | 375 mg | C(C)(=O)N1C=C2C[C@H]3N(C[C@H](C[C@@H]3C=3C=C(C=C1C32)[N+](=O)[O-])NC(N(CC)CC)=O)C | C22H29N5O4
